US09102669B2
Ethyl 2-(4-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-1H-pyrazol-1-yl)acetate was prepared according to the procedure as described in Example 1, Method A, STEP 4, reacting 1-(ethoxycarbonylmethyl)pyrazole-4-boronic acid pinacol ester and 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline.

reactant | 1-(ethoxycarbonylmethyl)pyrazole-4-boronic acid pinacol ester | C(C)OC(=O)CN1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C13H21BN2O4
reactant | 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline | ClC1=CC=C(N=N1)N1CCC(CC1)N1CCC2=CC=C(C=C12)F | C17H18ClFN4
product | Ethyl 2-(4-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-1H-pyrazol-1-yl)acetate | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C1=CC=C(N=N1)C=1C=NN(C1)CC(=O)OCC | C24H27FN6O2
